US07816354B2
3-(4-Morpholin-4-yl-benzyl)-5-(R)-phenyl-oxazolidin-2-one
Palladium Acetate (3 mg, 0.013 mmol) and BINAP (8 mg, 0.013 mmol) were suspended in Toluene (2 mL) and stirred under argon for 10 minutes. The suspension was then added to a stirring suspension of 3-(4-Iodo-benzyl)-5-(R)-phenyl)-oxazolidin-2-one (50 mg, 0.132 mmol), morpholine (14 μL, 0.158 mmol), and cesium carbonate (43 mg, 0.396 mmol) in toluene (1 mL). Stirring continued for 5 minutes at room temperature and the mixture was then heated at 115° C. for 2 hours. The mixture was then cooled to room temperature, diluted with dichloromethane, filtered and concentrated in vacuo. The residue was purified by chromatography on silica gel, eluting with 30-40% ethyl acetate in hexanes. The title compound was isolated as a yellow solid (14 mg, 31%). 1H NMR (300 MHz, CDCl3): δ 7.40-7.31 (m, 5H), 7.23 (d, 2H), 6.89 (d, 2H), 5.47 (t, 1H), 4.50-4.33 (q, 2H), 3.89-3.86 (m, 4H), 3.76 (t, 1H), 3.30 (t, 1H), 3.19-3.16 (m, 4H).

reactant | BINAP | 0.013 mmol, 8 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | oxazolidin-2-one | 0.132 mmol, 50 mg | O1C(NCC1)=O | C3H5NO2
reactant | morpholine | 0.158 mmol, 14 μL | N1CCOCC1 | C4H9NO
reactant | cesium carbonate | 0.396 mmol, 43 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Palladium Acetate | 0.013 mmol, 3 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-Morpholin-4-yl-benzyl)-5-(R)-phenyl-oxazolidin-2-one | N1(CCOCC1)C1=CC=C(CN2C(O[C@@H](C2)C2=CC=CC=C2)=O)C=C1 | C20H22N2O3
